US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-(8-methyloctahydro-pyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a stirred solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (85 mg, 0.18 mmol) and triethylamine (49 μL, 0.35 mmol) in DMF (1 mL) at −78° C., iodomethane (177 μL, 0.17 mmol, 1.0M in DMF) was added. The reaction was allowed to stir for 1 h while warming to rt. The mixture was partitioned between ethyl acetate (30 mL) and pH 14 saturated aqueous NaCl (10 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The residue was triturated with Et2O to obtain 30 mg (34%) of the desired product. 1H-NMR (DMSO-d6) 8.53 (s, 1H), 7.90 (s, 1H), 7.78 (d, 1H), 7.57 (s, 1H), 7.35-7.28 (m, 5H), 7.11 (d, 1H), 6.70 (s, 1H), 5.64 (s, 2H), 5.11 (dd, 1 H), 3.75 (dd, 1 H), 3.37-3.26 (m, 1H), 2.98 (dd, 1H), 2.70-2.65 (m, 2H), 2.56-2.50 (m, 1H), 2.47-2.30 (m, 1H), 2.26-2.18 (m, 2H), 2.14 (s, 3H), 2.11-2.01 (m, 1H), 1.61 (t, J=10.5 Hz, 1H); LC-MS [M+H]+=495, RT=2.10 min.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.18 mmol, 85 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CNCC1 | C27H28N8O
reactant | triethylamine | 0.35 mmol, 49 μL | C(C)N(CC)CC | C6H15N
reactant | iodomethane | 0.17 mmol, 1.0M, 177 μL | IC | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-(2-benzyl-2H-indazol-6-yl)-7-(8-methyloctahydro-pyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 30 mg, 34% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CN(CC1)C | C28H30N8O
